US04052455
Reaction of acetamidine with 4-nitrostyrylsulfonyl chloride according to the above procedure provides N-(4-NITROSTYRYLSULFONYL)ACETAMIDINE, m.p. 203.0°-203.5° C. (dec.)(corr.), crystallized from acetonitrile.

reactant | acetamidine | C(C)(=N)N | C2H6N2
reactant | 4-nitrostyrylsulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)Cl)C=C1 | C8H6ClNO4S
product | N-(4-NITROSTYRYLSULFONYL)ACETAMIDINE | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)NC(C)=N)C=C1 | C10H11N3O4S
